US05041455
A. 3-(4-(2-(2-methoxyethoxy)ethoxy)-1,2,5-thiadiazol-3-yl)pyridine
To a solution of sodium (210 mg, 9 mmol) in 2-(2-methoxyethoxy)ethanol (10 ml) was added 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine (590 mg, 3 mmol). The mixture was stirred at 50° C. for 4 h and evaporated. The residue was dissolved in water and extracted with ether. The combined organic phases were dried and evaporated to give the title compound.

reactant | sodium | 9 mmol, 210 mg | [Na] | Na
reactant | 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine | 3 mmol, 590 mg | ClC=1C(=NSN1)C=1C=NC=CC1 | C7H4ClN3S
reactant | 2-(2-methoxyethoxy)ethanol | 10 ml | COCCOCCO | C5H12O3
product | 3-(4-(2-(2-methoxyethoxy)ethoxy)-1,2,5-thiadiazol-3-yl)pyridine | COCCOCCOC=1C(=NSN1)C=1C=NC=CC1 | C12H15N3O3S
